US09085527B2
tert-Butyl 2-((2-aminoethyl)(methyl)amino)ethylcarbamate (500 mg, 2.3 mmol) was taken up in CH3CN (10 mL) along with salicylic acid (310 mg, 2.3 mmol) and EDCI (485 mg, 2.53 mmol). The resulting reaction mixture was stirred at room temperature for 18 h and then diluted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, brine, dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by chromatography (MeOH—CH2Cl2, 5%) to afford tert-butyl 2-((2-(2-hydroxybenzamido)ethyl)(methyl)amino)ethylcarbamate (380 mg, 49%). Mass calculated for C17H27N3O4: 337.2; found: [M+H]+=338.

reactant | tert-Butyl 2-((2-aminoethyl)(methyl)amino)ethylcarbamate | 2.3 mmol, 500 mg | NCCN(CCNC(OC(C)(C)C)=O)C | C10H23N3O2
reactant | salicylic acid | 2.3 mmol, 310 mg | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | EDCI | 2.53 mmol, 485 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 2-((2-(2-hydroxybenzamido)ethyl)(methyl)amino)ethylcarbamate | 380 mg, 49% | OC1=C(C(=O)NCCN(CCNC(OC(C)(C)C)=O)C)C=CC=C1 | C17H27N3O4
